US07696234B2
4-(Pyridin-2-ylmethoxy)-benzoic acid methyl ester
The title compound is prepared in a manner substantially analogous to Procedure E from methyl 4-hydroxybenzoate and 2-(bromomethyl)pyridine hydrobromide.

reactant | methyl 4-hydroxybenzoate | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | 2-(bromomethyl)pyridine hydrobromide | Br.BrCC1=NC=CC=C1
product | 4-(Pyridin-2-ylmethoxy)-benzoic acid methyl ester | COC(C1=CC=C(C=C1)OCC1=NC=CC=C1)=O | C14H13NO3
